US08334310B2
To a stirred solution of (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-isothiocyanato-tetrahydro-2H-pyran-2,4,5-triyl triacetate (530 mg, 1.36 mmol) in CH3CN (7 mL) was added neat propylamine hydrochloride (260 mg, 2.72 mmol) followed by triethylamine (378 p, 2.72 mmol) and the resulting mixture was stirred for 1 h. Saturated aqueous NaHCO3 (20 mL) was added, then the resulting mixture was extracted with CH2Cl2 (3×10 mL) and the combined organic extracts were dried (MgSO4) and concentrated. The resulting crude material was purified by flash chromatography on silica gel (hexane/EtOAc 1:1) to give (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-propylthioureido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate as a white foam (532 mg, 87% yield). 1H NMR (500 MHz, CDCl3) δ 0.97 (t, 3H, J=7.5 Hz), 1.59-1.64 (m, 2H), 1.53-1.59 (m, 2H), 2.06 (s, 3H), 2.08 (s, 3H), 2.12 (s, 3H), 2.15 (s, 3H), 3.35 (br s, 2H), 3.81-3.85 (m, 1H), 4.13-4.17 (m, 2H), 4.20-4.25 (m, 1H), 4.29 (dd, 1H, J=4.5, 12.5 Hz), 5.17-5.23 (m, 2H), 5.73 (d, 1H, J=8.5 Hz), 6.07 (br s, 1H).

reactant | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-isothiocyanato-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 1.36 mmol, 530 mg | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N=C=S)OC(C)=O)OC(C)=O)COC(C)=O | C15H19NO9S
reactant | propylamine hydrochloride | 2.72 mmol, 260 mg | Cl.C(CC)N
reactant | triethylamine | 2.72 mmol | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 7 mL | CC#N | C2H3N
product | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-propylthioureido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 532 mg, 87% yield | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1NC(=S)NCCC)OC(C)=O)OC(C)=O)COC(C)=O | C18H28N2O9S
